US09290451B2
a) 5-Cyclopropyl-6-cyclopropylmethoxy-pyridine-2-carboxylic acid
A mixture of 5-bromo-6-(cyclopropylmethoxy)-pyridine-2-carboxylic acid (Example 9 d, 1.5 g, 5.5 mmol), cyclopropylboronic acid (CAN 411235-57-9, 0.57 g, 7 mmol), palladium diacetate (CAN 3375-31-3, 62 mg, 0.28 mmol), tricyclohexylphosphine (CAN 2622-14-2, 154 mg, 0.1 mmol) and potassium phosphate (4.1 g, 19 mmol) in toluene/water (20/1v/v, 30 mL) was heated to 100° C. overnight. After that the mixture was evaporated to dryness, dissolved in 30 mL of water, extracted with ethyl acetate (30 mL) and the organic layer was dropped. The water layer was adjusted to pH=3 and extracted with ethyl acetate (2×30 mL), this organic layer was washed with water (30 mL) and brine (30 mL), dried over anhydrous sodium sulfate then evaporated to dryness. The residue was purified by column chromatography (silica gel, 10 g, eluting with 15% ethyl acetate in petroleum ether) to obtain the title compound (0.96 g, 75%) as white solid; MS (LC/MS): 234.1 [M+H]+.

reactant | 5-bromo-6-(cyclopropylmethoxy)-pyridine-2-carboxylic acid | 5.5 mmol, 1.5 g | BrC=1C=CC(=NC1OCC1CC1)C(=O)O | C10H10BrNO3
reactant | cyclopropylboronic acid | 7 mmol, 0.57 g | C1(CC1)B(O)O | C3H7BO2
reactant | tricyclohexylphosphine | 0.1 mmol, 154 mg | C1(CCCCC1)P(C1CCCCC1)C1CCCCC1 | C18H33P
reactant | potassium phosphate | 19 mmol, 4.1 g | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
solvent | toluene water | 30 mL | C1(=CC=CC=C1)C.O
catalyst | palladium diacetate | 0.28 mmol, 62 mg | C(C)(=O)[O-].C(C)(=O)[O-].[Pd+2]
product | 5-Cyclopropyl-6-cyclopropylmethoxy-pyridine-2-carboxylic acid | 0.96 g, 75% | C1(CC1)C=1C=CC(=NC1OCC1CC1)C(=O)O | C13H15NO3
